2127-10-01 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   10.7 g/dL
   105 mg/dL
   5.2 mg/dL
   28 mEq/L
   4.0 mEq/L
   28 mg/dL
   100 mEq/L
   140 mEq/L
   32.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2127-9-30**]  03:20 AM
                             [**2127-10-1**]  02:45 AM
   WBC
   10.3
   8.1
   Hct
   34.9
   32.5
   Plt
   261
   236
   Cr
   8.5
   5.2
   Glucose
   59
   105
   Other labs: PT / PTT / INR:17.3/31.7/1.6, Differential-Neuts:85.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   This is an 82 yom with hx of ESRD on HD, HTN, DM Type II with
   Peripheral Neuropathy, Afib on Coumadin who presented from an OSH with
   SDH s/p fall now with Hypertensive Urgency requiring Nicardipine gtt.
   PLAN
   #. HTN:  Patient transferred to MICU for management of hypertensive
   urgency requiring Nicardipine gtt.  Patient is currently off of
   Nicardipine gtt.  Will attempt to control with PO and IV meds.
   - cont Metoprolol [**Hospital1 **]
   - cont Hydral 25mg q4-6 PRN SBP > 160
   - up titrate Metoprolol as needed
   - may add Amlodipine in AM if cont with HTN
   - q4h Neuro checks
   # SDH:  Stable on CT scan today.  will monitor BP as above.
   - cont Keppra 500 mg PO BID
   - q4h Neuro checks
   - f/u NS recs
   - hold coumadin
   # ESRD:  Patient on HD M/W/F, however went for HD today.
   - cont HD
   - f/u Nephrology recs
   #. DM
   - hold oral anti-hyperglycemics, cover with regular insulin sliding
   scale while in-house
   # Afib on Coumadin:  Patient with history of afib on coumadin. Given
   recent fall, patient likely not a candidate to cont on coumadin.
   - hold coumadin
   - cont BB for rate control
   #. FEN
   - low sodium, diabetic diet
   - check and replete lytes to goal K>4, Mg>2
   #. PPx
   - Pneumoboots
   - bowel regimen
   #. FULL CODE
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2127-10-01 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Weaned from nicardipine drip
   SBPs came down from 140-150s to 80-90s.  This occurred during a course
   of dilt treatment for AFib with RVR.  Blood pressures were unresponsive
   to 1.5 L IVF resuscitation.
   Central Line (right IJ) placed expectantly at 7:20
   Patient was febrile to 101.1, and cultures were sent
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-1**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tm 101.1  Tc 101.1
   HR 101 (59-116)
   BP 1215/54 (85-174/37-74)
   RR 16 (16-24)
   Sat 99 (93-99)/2L NC
                  Total In:
                                                                      1314
                                                                      [**2119**]
   PO:
                                                                       720
                  TF:
   IVF:
                                                                       341
   Blood products:
                                                                       254
   Total out:
                                                                   3612 mL
                                                                     17 mL
   Urine:
                                                                       112
                                                                        17
   NG:
   Stool:
   Drains:
                                                             (HD of 3.5 L)
   Balance:
                                                                    -2.3 L
                                                                      0 mL
                                                              Los net -314
   Respiratory support
   ABG: ///28/
   Physical Examination
   Skin:  Warm, no rashes
   HEENT: Pupils constricted, reactive
   CV: RRR no audible murmurs
   P: CTAB
   Abd:  Soft, obese, non-tender, non-distended  (+) BS
   Ext: WWP
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   10.7 g/dL
   105 mg/dL
   5.2 mg/dL
   28 mEq/L
   4.0 mEq/L
   28 mg/dL
   100 mEq/L
   140 mEq/L
   32.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2127-9-30**]  03:20 AM
                             [**2127-10-1**]  02:45 AM
   WBC
   10.3
   8.1
   Hct
   34.9
   32.5
   Plt
   261
   236
   Cr
   8.5
   5.2
   Glucose
   59
   105
   Other labs: PT / PTT / INR:17.3/31.7/1.6, Differential-Neuts:85.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   This is an 82 yom with hx of ESRD on HD, HTN, DM Type II with
   Peripheral Neuropathy, Afib on Coumadin who presented from an OSH with
   SDH s/p fall who was treated with multiple medications for Hypertensive
   Urgency and then became hypotensive. Hypotension is likely secondary to
   stacking of multiple blood pressure medications.  Patient was also s/p
   3.5L HD.  However, sepsis is an alternate explanation given patient
   fever.
   PLAN
   #. Blood pressure control:
   -          Hold antihypertensives
   -          Monitor fever curve and WBC
   -          Check sputum, follow blood cultures
   -          Will do Echo to eval systolic function
   # SDH:  Stable on CT scan today.  will monitor BP as above.
   - cont Keppra 500 mg PO BID
   - q4h Neuro checks
   - f/u NS recs
   - hold coumadin
   # ESRD:  Patient on HD M/W/F, however went for HD today.  Will go again
   today
   - suggest fluid goal even given blood pressure lability.
   - cont HD
   - f/u Nephrology recs
   #. DM
   - hold oral anti-hyperglycemics, cover with regular insulin sliding
   scale while in-house
   # Afib on Coumadin:  Patient with history of afib on coumadin. Given
   recent fall, patient likely not a candidate to cont on coumadin.
   - hold coumadin
   #. FEN
   - low sodium, diabetic diet
   - check and replete lytes to goal K>4, Mg>2
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines: Right IJ, peripheral, foley
   Prophylaxis:  bowel regimen
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: ICU

2127-10-03 06:49:00 Physician Resident Progress Note
24 Hour Events:
 RUE ultrasound neg
 CALLED OUT but stayed overnight following conversion to a.fib with
   RVR.  Rates to 130s-140s.  Treated with 250mL NS bolus x 2 (total
   500mL).  Took off approx 4.5L at HD yesterday causing him to be too
   dry.
   Was in a.fib for approx 2 to 3 hours.  Converted back to sinus at
   approx 1am.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-10-2**] 10:00 AM
   Hydralazine - [**2127-10-2**] 06:04 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-3**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 73 (64 - 124) bpm
   BP: 137/52(73) {118/45(61) - 201/106(128)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 82 kg
   Height: 64 Inch
    CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  1,715 mL
                                                                    250 mL
   PO:
                                                                  1,360 mL
   TF:
   IVF:
                                                                    330 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,785 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   9.6 g/dL
   105 mg/dL
   4.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   30 mg/dL
   98 mEq/L
   136 mEq/L
   29.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2127-9-30**]  03:20 AM
                             [**2127-10-1**]  02:45 AM
                             [**2127-10-1**]  10:00 AM
                             [**2127-10-1**]  04:00 PM
                             [**2127-10-1**]  09:00 PM
                             [**2127-10-2**]  03:54 AM
                             [**2127-10-2**]  04:00 AM
                             [**2127-10-3**]  04:13 AM
   WBC
   10.3
   8.1
   6.2
   6.0
   Hct
   34.9
   32.5
   28.4
   29.6
   Plt
   261
   236
   180
   188
   Cr
   8.5
   5.2
   6.4
   4.3
   Glucose
   59
   105
   144
   187
   148
   82
   92
   105
   Other labs: PT / PTT / INR:14.5/31.4/1.3, Differential-Neuts:85.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:9.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-1**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-03 06:49:00 Physician Resident Progress Note
24 Hour Events:
 RUE ultrasound neg
 CALLED OUT but stayed overnight following conversion to a.fib with
   RVR.  Rates to 130s-140s.  Treated with 250mL NS bolus x 2 (total
   500mL).  Took off approx 4.5L at HD yesterday causing him to be too
   dry.
   Was in a.fib for approx 2 to 3 hours.  Converted back to sinus at
   approx 1am.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-10-2**] 10:00 AM
   Hydralazine - [**2127-10-2**] 06:04 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-3**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 73 (64 - 124) bpm
   BP: 137/52(73) {118/45(61) - 201/106(128)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 82 kg
   Height: 64 Inch
    CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  1,715 mL
                                                                    250 mL
   PO:
                                                                  1,360 mL
   TF:
   IVF:
                                                                    330 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,785 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   9.6 g/dL
   105 mg/dL
   4.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   30 mg/dL
   98 mEq/L
   136 mEq/L
   29.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2127-9-30**]  03:20 AM
                             [**2127-10-1**]  02:45 AM
                             [**2127-10-1**]  10:00 AM
                             [**2127-10-1**]  04:00 PM
                             [**2127-10-1**]  09:00 PM
                             [**2127-10-2**]  03:54 AM
                             [**2127-10-2**]  04:00 AM
                             [**2127-10-3**]  04:13 AM
   WBC
   10.3
   8.1
   6.2
   6.0
   Hct
   34.9
   32.5
   28.4
   29.6
   Plt
   261
   236
   180
   188
   Cr
   8.5
   5.2
   6.4
   4.3
   Glucose
   59
   105
   144
   187
   148
   82
   92
   105
   Other labs: PT / PTT / INR:14.5/31.4/1.3, Differential-Neuts:85.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:9.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   82 yom w/ ESRD on HD, HTN, DM Type II with peripheral neuropathy, Afib
   on Coumadin who presented from OSH with SDH and hypertensive urgency
   s/p fall treated w antihypertensives and -3.5L HD with resulting
   hypotension.  Spesis unlikely given clinical progress and lack of fever
   or white count.
   PLAN
   #. Blood pressure control
 now with hypertension:
   -          Can resume home bp meds as needed.  Will go carefully given
   plan for HD today. Metoprolol to 25 TID.  Would add diltiazam 30 TID
   tomorrow if stable.
   -          Monitor fever curve and WBC
   -          Follow up sputum, follow blood cultures
   # SDH:  Stable on CT scan today.  will monitor BP as above.
   -          cont Keppra 500 mg PO BID
   -          q4h Neuro checks
   -          f/u NS recs
   -          hold coumadin
   # ESRD:  Patient on HD M/W/F, however went for HD today.  Will go again
   today
   - suggest fluid goal down 1-3L today given evidence of volume overload
   on CXR and exam and restored blood pressures.
   -          f/u Nephrology recs
   #. DM
   -          hold oral anti-hyperglycemic.  Given episode of
   hypoglycemia, will change to
 insulin sliding scale for now.
   -          Uptitrate as necessary
   # Afib on Coumadin:  Patient with history of afib on coumadin. Given
   recent fall, patient likely not a candidate to cont on coumadin.
   Discussed with neurosurg. regarding anticoagulation in context of SDH.
   Will need to be off anticoagulation for 4 weeks and then should be seen
   in [**Hospital 5054**] clinic to reeval.  OK to restart [**Hospital 369**] and SQ hep
   -          hold coumadin
   -          [**Last Name (LF) 5055**], [**First Name3 (LF) 369**] 81 mg QD
   -          Neurosurgery follow up
   # RUE swelling.  Good pulses so low concern for CVL complication.
   Thrombosis is possible
   -          RUQ echo
   #. FEN
   -          low sodium, diabetic diet
   -          check and replete lytes to goal K>4, Mg>2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-1**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-10-03 06:49:00 Physician Resident Progress Note
24 Hour Events:
 RUE ultrasound neg
 CALLED OUT but stayed overnight following conversion to a.fib with
   RVR.  Rates to 130s-140s.  Treated with 250mL NS bolus x 2 (total
   500mL).  Took off approx 4.5L at HD yesterday so thought is that his
   decreased fluid status may have precipitated his abnormal rhythm.
   Was in a.fib for approx 2 to 3 hours.  Converted back to sinus at
   approx 1am.
   Patient reports no urination for 2 days since foley was removed. Says
   he normally urinates at home several times per day.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-10-2**] 10:00 AM
   Hydralazine - [**2127-10-2**] 06:04 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-3**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 73 (64 - 124) bpm
   BP: 137/52(73) {118/45(61) - 201/106(128)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 82 kg
   Height: 64 Inch
    CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  1,715 mL
                                                                    250 mL
   PO:
                                                                  1,360 mL
   TF:
   IVF:
                                                                    330 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,785 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG:
   Physical Examination
   Gen: Pleasant, conversant male resting in bed, NAD. A and O times
   three.
   HEENT: NCAT, PERRL, EOMI, MMM and I
   CV: irregularly irregular during 1^st exam, RRR upon 2^nd exam during
   rounds, no MRG
   Lungs: CTA b/l
   Abd: Soft, NT/ND, +BS
   Ext: RUE with nonpitting edema, radial pulse 2+, moving well and with
   full strength,  warm; other ext without CCE
   Labs / Radiology
   188 K/uL
   9.6 g/dL
   105 mg/dL
   4.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   30 mg/dL
   98 mEq/L
   136 mEq/L
   29.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2127-9-30**]  03:20 AM
                             [**2127-10-1**]  02:45 AM
                             [**2127-10-1**]  10:00 AM
                             [**2127-10-1**]  04:00 PM
                             [**2127-10-1**]  09:00 PM
                             [**2127-10-2**]  03:54 AM
                             [**2127-10-2**]  04:00 AM
                             [**2127-10-3**]  04:13 AM
   WBC
   10.3
   8.1
   6.2
   6.0
   Hct
   34.9
   32.5
   28.4
   29.6
   Plt
   261
   236
   180
   188
   Cr
   8.5
   5.2
   6.4
   4.3
   Glucose
   59
   105
   144
   187
   148
   82
   92
   105
   Other labs: PT / PTT / INR:14.5/31.4/1.3, Differential-Neuts:85.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:9.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   82 yom w/ ESRD on HD, HTN, DM Type II with peripheral neuropathy, and
   AFIB (on coumadin at home) who presented from OSH s/p fall with SDH and
   hypertensive urgency treated w antihypertensives and -3.5L HD with
   resulting hypotension.
   PLAN
   #. Blood pressure control
 now with hypertension: Metoprolol 25 TID.
   -          Added home diltiazam 30 TID
   -          monitor
   # SDH:  Stable neurologically. Holding coumadin.
   -          cont Keppra 500 mg PO BID to be dosed after HD on HD days
   -          f/u NS recs
   # ESRD:  Patient on HD M/W/F usually. Had HD [**10-2**].  Now seemingly
   anuric.
   -          f/u Nephrology recs
   -          Keppra to be dosed after HD on HD days
   -          Bladder scan to assess for obstruction after foley removal
   since patient normally urinates
   #. DM
   -          hold oral anti-hyperglycemic.  Given episode of
   hypoglycemia, will change to
 insulin sliding scale for now.
   -          Uptitrate as necessary
   # Afib on Coumadin:  Patient with history of afib on coumadin. Given
   recent fall, neurosurgery feels patient not a candidate for coumadin
   until at least their outpatient follow up appointment for re-eval.  OK
   to restart [**Month/Day (4) 369**] and SQ hep
   -          hold coumadin
   -          [**Last Name (LF) 5055**], [**First Name3 (LF) 369**] 81 mg QD
   -          Neurosurgery follow up
   # RUE swelling.  Good pulses so low concern for CVL complication.  U/S
   without thrombus
   - elevation, monitor
   #. FEN
   -          low sodium, diabetic diet
   -          check and replete lytes to goal K>4, Mg>2
   #. PPx: Heparin, [**First Name3 (LF) 369**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-1**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2127-10-03 06:49:00 Physician Resident Progress Note
24 Hour Events:
 RUE ultrasound neg
 CALLED OUT but stayed overnight following conversion to a.fib with
   RVR.  Rates to 130s-140s.  Treated with 250mL NS bolus x 2 (total
   500mL).  Took off approx 4.5L at HD yesterday so thought is that his
   decreased fluid status may have precipitated his abnormal rhythm.
   Was in a.fib for approx 2 to 3 hours.  Converted back to sinus at
   approx 1am.
   Patient reports no urination for 2 days since foley was removed. Says
   he normally urinates at home several times per day.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2127-10-2**] 10:00 AM
   Hydralazine - [**2127-10-2**] 06:04 PM
   Heparin Sodium (Prophylaxis) - [**2127-10-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-10-3**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 73 (64 - 124) bpm
   BP: 137/52(73) {118/45(61) - 201/106(128)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 82 kg
   Height: 64 Inch
    CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  1,715 mL
                                                                    250 mL
   PO:
                                                                  1,360 mL
   TF:
   IVF:
                                                                    330 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,785 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG:
   Physical Examination
   Gen: Pleasant, conversant male resting in bed, NAD. A and O times
   three.
   HEENT: NCAT, PERRL, EOMI, MMM and I
   CV: irregularly irregular during 1^st exam, RRR upon 2^nd exam during
   rounds, no MRG
   Lungs: CTA b/l
   Abd: Soft, NT/ND, +BS
   Ext: RUE with nonpitting edema, radial pulse 2+, moving well and with
   full strength,  warm; other ext without CCE
   Labs / Radiology
   188 K/uL
   9.6 g/dL
   105 mg/dL
   4.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   30 mg/dL
   98 mEq/L
   136 mEq/L
   29.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2127-9-30**]  03:20 AM
                             [**2127-10-1**]  02:45 AM
                             [**2127-10-1**]  10:00 AM
                             [**2127-10-1**]  04:00 PM
                             [**2127-10-1**]  09:00 PM
                             [**2127-10-2**]  03:54 AM
                             [**2127-10-2**]  04:00 AM
                             [**2127-10-3**]  04:13 AM
   WBC
   10.3
   8.1
   6.2
   6.0
   Hct
   34.9
   32.5
   28.4
   29.6
   Plt
   261
   236
   180
   188
   Cr
   8.5
   5.2
   6.4
   4.3
   Glucose
   59
   105
   144
   187
   148
   82
   92
   105
   Other labs: PT / PTT / INR:14.5/31.4/1.3, Differential-Neuts:85.0 %,
   Band:0.0 %, Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, Ca++:9.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   82 yom w/ ESRD on HD, HTN, DM Type II with peripheral neuropathy, and
   AFIB (on coumadin at home) who presented from OSH s/p fall with SDH and
   hypertensive urgency treated w antihypertensives and -3.5L HD with
   resulting hypotension.
   PLAN
   #. Blood pressure control
 now with hypertension: Metoprolol 25 TID.
   -          Added home diltiazam 30 TID
   -          monitor
   # SDH:  Stable neurologically. Holding coumadin.
   -          cont Keppra 500 mg PO BID to be dosed after HD on HD days
   -          f/u NS recs
   # ESRD:  Patient on HD M/W/F usually. Had HD [**10-2**].  Now seemingly
   anuric.
   -          f/u Nephrology recs
   -          Keppra to be dosed after HD on HD days
   -          Bladder scan to assess for obstruction after foley removal
   since patient normally urinates
   #. DM
   -          hold oral anti-hyperglycemic.  Given episode of
   hypoglycemia, will change to
 insulin sliding scale for now.
   -          Uptitrate as necessary
   # Afib on Coumadin:  Patient with history of afib on coumadin. Given
   recent fall, patient likely not a candidate to cont on coumadin.
   Discussed with neurosurg. regarding anticoagulation in context of SDH.
   Will need to be off anticoagulation for 4 weeks and then should be seen
   in [**Hospital 5054**] clinic to reeval.  OK to restart [**Hospital 369**] and SQ hep
   -          hold coumadin
   -          [**Last Name (LF) 5055**], [**First Name3 (LF) 369**] 81 mg QD
   -          Neurosurgery follow up
   # RUE swelling.  Good pulses so low concern for CVL complication.
   Thrombosis is possible
   -          RUQ echo
   #. FEN
   -          low sodium, diabetic diet
   -          check and replete lytes to goal K>4, Mg>2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-10-1**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: